US08975265B2
{1-[4-(6,8-dimethyl-3-phenyl-imidazo[1,2-a]pyridin-2-yl)-phenyl]-cyclobutyl}-carbamic acid tert-butyl ester
500 mg (1.13 mmol) {1-[4-(2-Bromo-2-phenyl-acetyl)phenyl]-cyclobutyl}-carbamic acid tert.-butyl ester, 137.5 mg (1.13 mmol) 3,5-dimethyl-pyridin-2-yl-amine and molecular sieves (4 Å, dried over night at 120° C. in a drying oven) were heated in 10 mL ethanol in a Dean-Stark apparatus for 23 hours. The reaction mixture had been sucked off via a glass fibre filter and evaporated to dryness. The residue was redissolved in dichloromethane, washed with an 1 M hydrochloric acid, saturated sodium bicarbonate and brine and dried (sodium sulfate). After filtration and removal of the solvent the residue was purified by chromatography on silicagel (eluents: hexane/ethyl acetate) yielding 142.6 mg (25.8%) of the pure title compound and 77.5 mg (14.7%) of the title compound which was slightly contaminated.

reactant | {1-[4-(2-Bromo-2-phenyl-acetyl)phenyl]-cyclobutyl}-carbamic acid tert.-butyl ester | 1.13 mmol, 500 mg | C(C)(C)(C)OC(NC1(CCC1)C1=CC=C(C=C1)C(C(C1=CC=CC=C1)Br)=O)=O | C23H26BrNO3
reactant | 3,5-dimethyl-pyridin-2-yl-amine | 1.13 mmol, 137.5 mg | CC=1C(=NC=C(C1)C)N | C7H10N2
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | {1-[4-(6,8-dimethyl-3-phenyl-imidazo[1,2-a]pyridin-2-yl)-phenyl]-cyclobutyl}-carbamic acid tert-butyl ester | 77.5 mg, 14.7% | C(C)(C)(C)OC(NC1(CCC1)C1=CC=C(C=C1)C=1N=C2N(C=C(C=C2C)C)C1C1=CC=CC=C1)=O | C30H33N3O2
